Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Found down
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ male on ASA and Plavix who presents to
___ on ___ with a severe TBI. Pt's wife found
him down on the floor this morning.  He was confused and not
making much sense but verbalized that he was dizzy and nauseous,
he told wife he was "going to throw up." After trying
unsuccessfully to sit pt up wife called EMS. Pt was taken to OSH
where head CT showed right IPH and was following commands. 
Family
reports that the patient declined.  Pt was intubated and
transferred to ___ for further evaluation.
 
Past Medical History:
PMHx: unknown complete hx but includes:
CAD stent placement ___ year ago
HTN
OA
                                                
PSHx:  
Stent placement ___
Complex debridement and repair tendon left fourth digit ___

 
Social History:
+ smoker, lives with wife
 
Physical ___:
ON ADMISSION
============
GCS upon Neurosurgery Evaluation: 7   Time of evaluation: 1315

Airway: [x]Intubated  [ ]Not intubated

Eye Opening: 
 [x]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [x]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [x]5 Localizes to painful stimuli
 [ ]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: Normocephalic, atraumatic
Neck:  C-collar in place
Extrem: warm and well perfused

Neuro:

If Intubated:
  [ ]Cough  [x]Gag  [x]Over breathing the vent

No Eye opening
Pupils anisocoric and surgical, right 4.5mm NR, Left 4mm NR
+ Corneals bilat
Localizing x 4 extremities to noxious stimuli

ON DISCHARGE
============
Expired
 
Pertinent Results:
Please see OMR for pertinent imaging & labs
 
Brief Hospital Course:
On ___, Mr. ___ was transferred from OSH to the ___ 
ER with a severe TBI and poor neurologic exam.  Repeat head CT 
performed in the ED showed worsening hemorrhage, worsening edema 
and increased midline shift. 

A lengthy discussion was held with wife and children at bedside 
and imaging was reviewed with the family.  In the setting of 
this devastating and progressing injury the wife and family 
elect no further medical or surgical interventions and request a 
shift to comfort care.  The family expressed that this decision 
reflected what the
patient would want for himself evidenced by conversations they 
have held with him in the past.  He was admitted to the Neuro 
ICU where he was placed on comfort measures. 
Chaplaincy was contacted, who met with the patient and family.  
The patients 4 sons
and wife were at the bedside and changed the patient Code Status
to care comfort measures and requested terminal extubation which
occurred on  ___  at 2100.  The patient expired at 2217.  The
patients wife declined autopsy. 

 
Medications on Admission:
1. Amlodipine 2.5mg daily  
 2. Atorvastatin 80mg daily  
 3. Aspirin 81mg daily  
 4. Plavix 75mg daily  
 5. Fosinopril 20mg daily  
 6. Gabapentin 100mg BID  
 7. HCTZ 12.5mg daily  
 8. Metformin 500mg tab  
 9. Toprol XL tab 100mg daily  
 10. Tramadol 50mg  

 
Discharge Medications:
Deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Intracerebral hemorrhage with cerebral compression

 
Discharge Condition:
Expired

 
Discharge Instructions:
Expired
 
Followup Instructions:
___